US03998822
1.0 part by weight of 1,4-dichloro-7-(p-methoxyphenyl)-5-methylpyrido(3,4-d)pyridazine is added to 10 parts by volume of morpholine, and the resulting mixture is heated at 130° C for 3 hours. The excess amount of morpholine is removed by evaporating under reduced pressure, and water is added to the residue. The crude crystals are collected by filtration and recrystallized from ethanol to obtain 7-(p-methoxyphenyl)-5-methyl-1,4-dimorpholinopyrido(3,4-d)-pyridazine as gray prisms melting at 206° to 209° C. Elementary analysis for C23H27O3N5

reactant | 1,4-dichloro-7-(p-methoxyphenyl)-5-methylpyrido(3,4-d)pyridazine | ClC1=C2C(=C(N=N1)Cl)C(=NC(=C2)C2=CC=C(C=C2)OC)C | C15H11Cl2N3O
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 7-(p-methoxyphenyl)-5-methyl-1,4-dimorpholinopyrido(3,4-d)-pyridazine | COC1=CC=C(C=C1)C1=CC=2C(=C(N=NC2N2CCOCC2)N2CCOCC2)C(=N1)C | C23H27N5O3
